US06339099B1
Preparation of ethyl 1-(3-cyano-4-fluorophenyl)-5-(2-furyl)pyrazole-4-carboxylate
To a solution of ethyl 3-(2-furyl)-3-ketopropionate (2.1 g, 11.5 mmol) in 20 mL of benzene was added dimethylformamide dimethylacetal (2.3 mL, 17.3 mmol). The resulting solution was stirred at 80° C. for 2 h. The reaction was cooled, filtered through a pad of silica gel and concentrated in vacuo. A portion of the residue (0.60 g, 2.54 mmol) was dissolved in 20 mL of glacial acetic acid and then there was added 4-fluoro-3-cyanophenylhydrazine tin chloride (1.05 g, 2.8 mmol). The reaction mixture was stirred at 100° C. for 4 h. The reaction was allowed to cool to room temperature and the acetic acid was removed in vacuo. The residue was diluted with ethyl acetate and the organics were washed with saturated aq NaHCO3 and brine, dried (MgSO4) and concentrated. The residue was purified by flash chromatography (elution with gradient of 6:1→3:1 hexanes/ethyl acetate) to afford 0.32 g (39%) of the title compound. LRMS (ES+): 326.2 (M+H)+.

reactant | ethyl 3-(2-furyl)-3-ketopropionate | 11.5 mmol, 2.1 g | O1C(=CC=C1)C(CC(=O)OCC)=O | C9H10O4
reactant | dimethylformamide dimethylacetal | 17.3 mmol, 2.3 mL | COC(N(C)C)OC | C5H13NO2
reactant | 4-fluoro-3-cyanophenylhydrazine tin chloride | 2.8 mmol, 1.05 g | [Sn](Cl)(Cl)(Cl)Cl.FC1=C(C=C(C=C1)NN)C#N
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | ethyl 1-(3-cyano-4-fluorophenyl)-5-(2-furyl)pyrazole-4-carboxylate | 0.32 g, 39% | C(#N)C=1C=C(C=CC1F)N1N=CC(=C1C=1OC=CC1)C(=O)OCC | C17H12FN3O3
